US04179524
A solution of 3-fluorocinnamoyl chloride (3.7 g) in dry toluene (35 ml) was added with stirring to allylamine (8 ml) in dry benzene (100 ml). The reaction mixture was allowed to stand at room temperature for three days. After evaporation of the solvents under reduced pressure the residue was triturated with water containing a small amount of sodium carbonate and washed with water. Recrystallization from ethanol: water gave 3-fluoro-N-allylcinnamamide (3.3 g), m.p. 84.5-87° C. as fine white needles. Elemental analysis, nmr and ir spectra were consistent with the structure assignment.

reactant | 3-fluorocinnamoyl chloride | 3.7 g | FC=1C=C(C=CC(=O)Cl)C=CC1 | C9H6ClFO
reactant | allylamine | 8 ml | C(C=C)N | C3H7N
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-fluoro-N-allylcinnamamide | 3.3 g | FC=1C=C(C=CC(=O)NCC=C)C=CC1 | C12H12FNO
